US07834021B2
6-(1-Hydroxy-4-oxocyclohexyl)nicotinonitrile.
The title compound was synthesized from 6-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)nicotinonitrile using the sane typical deprotection procedure as for 4-(1-hydroxy-4-oxocyclohexyl)benzonitrile.

reactant | 6-(8-hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)nicotinonitrile | OC1(CCC2(OCCO2)CC1)C1=NC=C(C#N)C=C1 | C14H16N2O3
reactant | 4-(1-hydroxy-4-oxocyclohexyl)benzonitrile | OC1(CCC(CC1)=O)C1=CC=C(C#N)C=C1 | C13H13NO2
product | 6-(1-Hydroxy-4-oxocyclohexyl)nicotinonitrile | OC1(CCC(CC1)=O)C1=NC=C(C#N)C=C1 | C12H12N2O2
